US08003796B2
Step A. Preparation of isopropyl 4-hydroxypiperidine-1-carboxylate
To a stirring solution of piperidin-4-ol (5.22 g, 51.6 mmol, Aldrich), Et3N (13.2 mL, 95 mmol, Aldrich) in CH2Cl2 (50 mL) at 0° C. was added a solution of Isopropyl chloroformate (1 Molar in Toluene, 43.0 mL, 43.0 mmol, Aldrich) dropwise. The reaction mixture was stirred at room temperature for 1 h and washed with 1N HCl in H2O. The H2O layer was extracted with DCM (2×). The organic layers were combined and concentrated in vacuo to yield 5.71 g of the desired product as a light brown oil. MS (ESI) 188 (M+H).

reactant | piperidin-4-ol | 51.6 mmol, 5.22 g | N1CCC(CC1)O | C5H11NO
reactant | Et3N | 95 mmol, 13.2 mL | CCN(CC)CC | C6H15N
reactant | Isopropyl chloroformate | 43.0 mmol, 1 Molar, 43.0 mL | ClC(=O)OC(C)C | C4H7ClO2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | isopropyl 4-hydroxypiperidine-1-carboxylate | 5.71 g | OC1CCN(CC1)C(=O)OC(C)C | C9H17NO3
